US06403578B1
Preparation of 5-(benzyloxycarbonylamino)pentanamine
To a suspension of 1,5-diaminopentane dihydrochloride (2.9 g, 16.7 mmol) in THF (100 mL) was added 20% aqueous sodium hydroxide (10.0 g, 50 mmol) at 0° C. A solution of benzyl chloroformate (1.7 g, 10 mmol) in THF (10 mL) was added rapidly dropwise and the resulting mixture stirred at RT. After 1 h, the organic layer was separated and concentrated to give a residue which was dissolved in ethyl acetate (200 mL). This solution was extracted with water (3×50 mL.), dried (sodium sulfate) and concentrated. The residue was redissolved in ether (50 mL) and 1.0 ethereal hydrogen chloride (3.0 mL) was added. The resulting precipitate was filtered, suspended in CH2Cl2 (75 mL) and shaken with 5% sodium hydroxide (15 mL). The organic layer was washed with water (75 mL), dried (sodium sulfate) and concentrated to give the title compound 0.25 g, 30%): 1H NMR (400 MHz, CDCl3) δ7.15-7.4 (m, 5H), 5.15-5.4 (m, 1H), 5.05 (s, 2H), 3.05-3.2 (m, 2H), 2.55-2.7 (m, 2H), 1.2-1.5 (m, 6H).

reactant | 1,5-diaminopentane dihydrochloride | 16.7 mmol, 2.9 g | Cl.Cl.NCCCCCN
reactant | sodium hydroxide | 50 mmol, 10.0 g | [OH-].[Na+]
reactant | benzyl chloroformate | 10 mmol, 1.7 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-(benzyloxycarbonylamino)pentanamine | 0.25 g, 30% | C(C1=CC=CC=C1)OC(=O)NCCCCCN | C13H20N2O2
